US07351719B2
Z41 b) 4-(N-tert. butoxycarbonyl-2-amino-ethoxy)-3-chloro-phenylamine
The product was obtained analogously to Intermediate product 29b starting from 2.25 g (7.10 mmol) N-tert.butoxycarbonyl-[2-(2-chloro-4-nitro-phenoxy)-ethyl]-amine by hydrogenation with 500 mg Raney nickel at 3 bar.

reactant | N-tert.butoxycarbonyl-[2-(2-chloro-4-nitro-phenoxy)-ethyl]-amine | 7.10 mmol, 2.25 g | C(C)(C)(C)OC(=O)NCCOC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C13H17ClN2O5
catalyst | Raney nickel | 500 mg | [Ni] | Ni
product | 4-(N-tert. butoxycarbonyl-2-amino-ethoxy)-3-chloro-phenylamine | C(C)(C)(C)OC(=O)NCCOC1=C(C=C(C=C1)N)Cl | C13H19ClN2O3
